US05599832
Preparation of 5,7-Dichloro-2-(3,5-dichlorophenyl)-3-nitroindole
A mixture of 5, 7-dichloro-2-(3,5-dichlorophenyl)indole (1.25 g, 3.8 mmole) in acetic acid is treated dropwise with 3 mL of concentrated HNO3 at 90° C., maintained at 90° C. for 1 hour, cooled and filtered. The filtercake is air-dried and recrystallized from methanol/water to afford the title product as a yellow solid, 0.60 g, (42% yield), mp 272°-273° C., identified by IR, 1HNMR and elemental analyses.

reactant | 5, 7-dichloro-2-(3,5-dichlorophenyl)indole | 3.8 mmole, 1.25 g | ClC=1C=C2C=C(NC2=C(C1)Cl)C1=CC(=CC(=C1)Cl)Cl | C14H7Cl4N
reactant | HNO3 | 3 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5,7-Dichloro-2-(3,5-dichlorophenyl)-3-nitroindole | 42% yield | ClC=1C=C2C(=C(NC2=C(C1)Cl)C1=CC(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C14H6Cl4N2O2
